US06251925B1
3-(3-Nitrophenyl)-5-pyridinecarboxylic acid ethyl ester as a pale yellow solid (400 mg);
n.m.r. δ values include 1.5 (t, 3 H), 4.5 (q, 2 H), 7.75 (t, 1 H), 8.0 (d, 1 H), 8.3 (d, 1 H), 8.6-8.5 (m, 2 H), 9.0 (s, 1 H), 9.3 (s, 1 H); from 3-bromo-5-pyridine carboxylic acid ethyl ester (985 mg) in toluene (15 mL), tetrakis(triphenylphosphino)palladium(0) (161 mg) and 3-nitrophenylboronic acid (860 mg).

reactant | 3-bromo-5-pyridine carboxylic acid ethyl ester | 985 mg | C(C)OC(=O)C=1C=C(C=NC1)Br | C8H8BrNO2
reactant | 3-nitrophenylboronic acid | 860 mg | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphino)palladium(0) | 161 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd-4](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(3-Nitrophenyl)-5-pyridinecarboxylic acid ethyl ester | C(C)OC(=O)C=1C=C(C=NC1)C1=CC(=CC=C1)[N+](=O)[O-] | C14H12N2O4
